US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 6-phenoxypyridine-3-carbaldehyde was carried out according to General Synthetic Method 7. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-[(6-phenoxypyridin-3-yl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 6-phenoxypyridine-3-carbaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=N1)C=O | C12H9NO2
product | 6-[4-[(6-phenoxypyridin-3-yl)methyl]piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | O(C1=CC=CC=C1)C1=CC=C(C=N1)CN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C22H20F3N7O
